### PR TITLE
[Merged by Bors] - feat: head/last element of flattened list

### PR DESCRIPTION
**Pull request by vihdzp**
---

Split off from #16837.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Flatten.lean [hunk 1]
```diff
@@ -42,4 +41,15 @@ theorem append_flatten_map_append (L : List (List α)) (x : List α) :
     x ++ (L.map (· ++ x)).flatten = (L.map (x ++ ·)).flatten ++ x := by
   induction L with grind
 
+theorem head_flatten_of_head_ne_nil {l : List (List α)} (hl : l ≠ []) (hl' : l.head hl ≠ []) :
+    l.flatten.head (flatten_ne_nil_iff.2 ⟨_, head_mem hl, hl'⟩) =
+      (l.head hl).head hl' := by
```
Comment (YaelDillies) [inline Mathlib/Data/List/Flatten.lean]: Can you turn this lemma around and make another where the free variable proofs are on the LHS like so?
```suggestion
    l.flatten.head hl =
      (l.head ...).head ... := by
```

File: Mathlib/Data/List/Flatten.lean [hunk 2]
```diff
@@ -42,4 +41,15 @@ theorem append_flatten_map_append (L : List (List α)) (x : List α) :
...
+  cases l with grind
+
+theorem getLast_flatten_of_getLast_ne_nil {l : List (List α)} (hl : l ≠ [])
```
Comment (YaelDillies) [inline Mathlib/Data/List/Flatten.lean]: Same thing here

File: Mathlib/Data/List/Flatten.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/Data/List/Flatten.lean]: What's the exact theorem statement you want? `l.flatten ≠ []` is not enough to deduce `l.head ... ≠ []`.

Comment (YaelDillies) [reply Mathlib/Data/List/Flatten.lean]: Oh right. At least you could have
```suggestion
    l.flatten.head hl = (l.head ...).head hl' := by
```
which removes a proof obligation

Comment (urkud) [reply Mathlib/Data/List/Flatten.lean]: @YaelDillies I can't easily imagine a situation when you have a proof of `hl'` but you don't have a proof of `l \ne []`. I mean, we can have both versions, but I think that this one should stay.

File: Mathlib/Data/List/Flatten.lean [hunk 3]
```diff
@@ -46,4 +47,15 @@ theorem append_flatten_map_append (L : List (List α)) (x : List α) :
...
+    (hl' : l.getLast hl ≠ []) :
+    l.flatten.getLast (flatten_ne_nil_iff.2 ⟨_, getLast_mem hl, hl'⟩) =
+      (l.getLast hl).getLast hl' := by
+  cases l using reverseRecOn with grind
```
Comment (urkud) [inline Mathlib/Data/List/Flatten.lean]: If you call `rcases` on `List.eq_nil_or_concat`, then you can drop the new import.

File: Mathlib/Data/List/Flatten.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Data/List/Flatten.lean]: It's simply to remove some side condition. The current one should indeed stay, but turned around

File: Mathlib/Data/List/Flatten.lean [hunk 4]
```diff
@@ -46,4 +46,23 @@ theorem append_flatten_map_append (L : List (List α)) (x : List α) :
     x ++ (L.map (· ++ x)).flatten = (L.map (x ++ ·)).flatten ++ x := by
   induction L with grind
 
+theorem head_flatten_of_head_ne_nil {l : List (List α)} (hl : l ≠ []) (hl' : l.head hl ≠ []) :
+    l.flatten.head (flatten_ne_nil_iff.2 ⟨_, head_mem hl, hl'⟩) = (l.head hl).head hl' := by
```
Comment (YaelDillies) [inline Mathlib/Data/List/Flatten.lean]:
```suggestion
theorem head_head_eq_head_flatten {l : List (List α)} (hl : l ≠ []) (hl' : l.head hl ≠ []) :
    (l.head hl).head hl' = l.flatten.head (flatten_ne_nil_iff.2 ⟨_, head_mem hl, hl'⟩) := by
```

File: Mathlib/Data/List/Flatten.lean [hunk 5]
```diff
@@ -46,4 +46,23 @@ theorem append_flatten_map_append (L : List (List α)) (x : List α) :
...
+  cases l with grind
+
+theorem head_flatten_of_flatten_ne_nil {l : List (List α)} (hl : l.flatten ≠ [])
+    (hl' : l.head (by grind) ≠ []) : l.flatten.head hl = (l.head (by grind)).head hl' :=
```
Comment (YaelDillies) [inline Mathlib/Data/List/Flatten.lean]:
```suggestion
theorem head_flatten_eq_head_head {l : List (List α)} (hl : l.flatten ≠ [])
    (hl' : l.head (by grind) ≠ []) : l.flatten.head hl = (l.head (by grind)).head hl' :=
```

File: Mathlib/Data/List/Flatten.lean [hunk 6]
```diff
@@ -46,4 +46,23 @@ theorem append_flatten_map_append (L : List (List α)) (x : List α) :
     x ++ (L.map (· ++ x)).flatten = (L.map (x ++ ·)).flatten ++ x := by
   induction L with grind
 
+theorem head_flatten_of_head_ne_nil {l : List (List α)} (hl : l ≠ []) (hl' : l.head hl ≠ []) :
+    l.flatten.head (flatten_ne_nil_iff.2 ⟨_, head_mem hl, hl'⟩) = (l.head hl).head hl' := by
+  cases l with grind
+
+theorem head_flatten_of_flatten_ne_nil {l : List (List α)} (hl : l.flatten ≠ [])
```
Comment (YaelDillies) [inline Mathlib/Data/List/Flatten.lean]: Can you cross ref the two lemmas and explain the design in their docstring?

File: Mathlib/Data/List/Flatten.lean [hunk 7]
```diff
@@ -46,4 +46,23 @@ theorem append_flatten_map_append (L : List (List α)) (x : List α) :
...
+    (hl' : l.head (by grind) ≠ []) : l.flatten.head hl = (l.head (by grind)).head hl' :=
+  head_flatten_of_head_ne_nil ..
+
+theorem getLast_flatten_of_getLast_ne_nil {l : List (List α)}
+    (hl : l ≠ []) (hl' : l.getLast hl ≠ []) :
+    l.flatten.getLast (flatten_ne_nil_iff.2 ⟨_, getLast_mem hl, hl'⟩) =
+      (l.getLast hl).getLast hl' := by
+  cases eq_nil_or_concat l with grind
+
+theorem getLast_flatten_of_flatten_ne_nil {l : List (List α)}
```
Comment (YaelDillies) [inline Mathlib/Data/List/Flatten.lean:67]: ditto ditto ditto

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
